US07157577B2
5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (1.0 g, 6 mmol) was reacted with 1-(3-aminopropyl)-4-methylpiperazine (1.06 mL) to give 0.38 g (23% yield) of 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [3-(4-methyl-piperazin-1-yl)-propyl]-amide using General Amidation Procedure 1. 1H-NMR (360 MHz, dimethylsulfoxide-d6) δ 11.8 (br s, 1H, NH), 9.52 (s, 1H, CHO), 7.52 (m, 1H, CONH), 3.2 (m, 2H, CH2), 2.8 (m, 2H, CH2), 2.5 (m, 8H, 4×CH2), 2.34 (s, 3H, CH3), 2.29 (s, 3H, CH3), 1.68 (m, 2H, CH2). MS m/z 307 [M+1].

reactant | 5-Formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 6 mmol, 1.0 g | C(=O)C1=C(C(=C(N1)C)C(=O)O)C | C8H9NO3
reactant | 1-(3-aminopropyl)-4-methylpiperazine | 1.06 mL | NCCCN1CCN(CC1)C | C8H19N3
product | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid [3-(4-methyl-piperazin-1-yl)-propyl]-amide | 0.38 g, 23% yield | CN1CCN(CC1)CCCNC(=O)C1=C(NC(=C1C)C=O)C | C16H26N4O2
